### PR TITLE
revisions to previous pull request

### PR DESCRIPTION
**Pull request by prestontranbarger**
fixed SmoothChebyshevPull1_aux_integrable and intermediate lemma X_eq_gt_one, marginal progress on the 2nd sorry of SmoothChebyshevPull1

### CODE REVIEW

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 1]
```diff
@@ -1138,11 +1138,17 @@ The integrand $$\zeta'(s)/\zeta(s)\mathcal{M}(\widetilde{1_{\epsilon}})(s)X^{s}$
 is integrable on the contour $\sigma_0 + t i$ for $t \in \R$ and $\sigma_0 > 1$.
 \end{lemma}
 %%-/
+<<<<<<< PT_work
+theorem SmoothedChebyshevPull1_aux_integrable {SmoothingF : ℝ → ℝ} {ε : ℝ} (ε_pos : 0 < ε) (X : ℝ)
+    {σ₀ : ℝ} (σ₀_gt_one : 1 < σ₀)
+    (holoOn : HolomorphicOn (SmoothedChebyshevIntegrand SmoothingF ε X) (Ico σ₀ 2 ×ℂ univ \ {1}))
+=======
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
```

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 2]
```diff
@@ -1143,6 +1143,7 @@ theorem SmoothedChebyshevPull1_aux_integrable {SmoothingF : ℝ → ℝ} {ε : 
     {X : ℝ} (X_gt : 3 < X)
     {σ₀ : ℝ} (σ₀_gt : 1 < σ₀) (σ₀_le_2 : σ₀ ≤ 2)
     (holoOn : HolomorphicOn (SmoothedChebyshevIntegrand SmoothingF ε X) (Icc σ₀ 2 ×ℂ univ \ {1}))
+>>>>>>> main
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
```

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 3]
```diff
@@ -1226,6 +1226,14 @@ X^{s}ds.$$
...
 %%-/
 
+<<<<<<< PT_work
+theorem SmoothedChebyshevPull1 {SmoothingF : ℝ → ℝ} {ε : ℝ} (ε_pos: 0 < ε) (ε_lt_one : ε < 1) (X : ℝ) (_ : 3 < X) {T : ℝ} (T_pos : 0 < T) {σ₁ : ℝ}
+    (σ₁_pos : 0 < σ₁) (σ₁_lt_one : σ₁ < 1)
+    (holoOn : HolomorphicOn (ζ' / ζ) ((Ico σ₁ 2)×ℂ (Ioo (-T) T) \ {1}))
+    (diffSmoothingF : ContDiff ℝ 1 SmoothingF)
+    (suppSmoothingF : Function.support SmoothingF ⊆ Icc (1 / 2) 2) (SmoothingFnonneg : ∀ x > 0, 0 ≤ SmoothingF x)
+    (mass_one : ∫ x in Ioi 0, SmoothingF x / x = 1) :
+=======
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
```

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 4]
```diff
@@ -1236,6 +1236,7 @@ theorem SmoothedChebyshevPull1 {SmoothingF : ℝ → ℝ} {ε : ℝ} (ε_pos: 0
     (SmoothingFnonneg : ∀ x > 0, 0 ≤ SmoothingF x)
     (mass_one : ∫ x in Ioi 0, SmoothingF x / x = 1)
     (ContDiffSmoothingF : ContDiff ℝ 1 SmoothingF) :
+>>>>>>> main
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
```

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 5]
```diff
@@ -1247,6 +1247,106 @@ theorem SmoothedChebyshevPull1 {SmoothingF : ℝ → ℝ} {ε : ℝ} (ε_pos: 0
   unfold VerticalIntegral'
   rw [verticalIntegral_split_three (a := -T) (b := T)]
   swap
+<<<<<<< PT_work
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
```

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 6]
```diff
@@ -1247,6 +1247,105 @@ theorem SmoothedChebyshevPull1 {SmoothingF : ℝ → ℝ} {ε : ℝ} (ε_pos: 0
...
+    unfold HPow.hPow instHPow
+    simp
+    apply DifferentiableAt.const_cpow
+    exact differentiableAt_id'
+    refine Or.inl ?_
+    refine ne_zero_of_re_pos ?_
+    rw[ofReal_re]
+    positivity
+  exact SmoothedChebyshevPull1_aux_integrable ε_pos X X_eq_gt_one holoIntegrand suppSmoothingF SmoothingFnonneg mass_one
+=======
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
```

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 7]
```diff
@@ -1247,6 +1247,103 @@ theorem SmoothedChebyshevPull1 {SmoothingF : ℝ → ℝ} {ε : ℝ} (ε_pos: 0
...
+    unfold HPow.hPow instHPow
+    simp
+    apply DifferentiableAt.const_cpow
+    exact differentiableAt_id'
+    refine Or.inl ?_
+    refine ne_zero_of_re_pos ?_
+    rw[ofReal_re]
+    positivity
   have X_eq_pos : 1 < 1 + (Real.log X)⁻¹ := by
     sorry
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
```

File: PrimeNumberTheoremAnd/MediumPNT.lean [hunk 8]
```diff
@@ -1268,6 +1363,7 @@ theorem SmoothedChebyshevPull1 {SmoothingF : ℝ → ℝ} {ε : ℝ} (ε_pos: 0
   exact SmoothedChebyshevPull1_aux_integrable ε_pos ε_lt_one X_gt X_eq_pos logX_gt
     holoIntegrand suppSmoothingF SmoothingFnonneg mass_one ContDiffSmoothingF
 
+>>>>>>> main
```
Comment (AlexKontorovich) [inline PrimeNumberTheoremAnd/MediumPNT.lean]:
```suggestion
```

**Review by AlexKontorovich — APPROVED** [review]
Argh! I couldn't do the merge right :( Will have to do it manually
